US05126337
Ethyl 8-chloro-6,7-difluoro-4-hydroxy-2-mercaptoquinoline-3-carboxylate
To a solution of 15.7 g of ethyl 8-chloro-6,7-difluoro-4-hydroxy-2-(methoxymethylthio)quinoline-3-carboxylate in 125 ml of 1,4-dioxane, 95 ml of 35% hydrochloric acid was added dropwise at 40° C. with stirring. The mixture was stirred at the same temperature for 1 hour. The reaction mixture was poured into 500 ml of water. The precipitate was collected by filtration and recrystallized from acetonitrile to give 11.2 g of the desired compound as pale yellow needles, m.p. 125°-130° C. (decomp.).

reactant | ethyl 8-chloro-6,7-difluoro-4-hydroxy-2-(methoxymethylthio)quinoline-3-carboxylate | 15.7 g | ClC=1C(=C(C=C2C(=C(C(=NC12)SCOC)C(=O)OCC)O)F)F | C14H12ClF2NO4S
reactant | water | 500 ml | O | H2O
solvent | 1,4-dioxane | 125 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 95 ml | Cl | ClH
product | Ethyl 8-chloro-6,7-difluoro-4-hydroxy-2-mercaptoquinoline-3-carboxylate | 11.2 g | ClC=1C(=C(C=C2C(=C(C(=NC12)S)C(=O)OCC)O)F)F | C12H8ClF2NO3S
